US08278290B2
(ii) 4-Ethynyl-1-trityl-1H-imidazole
To a stirred solution of 4-iodo-1-trityl-1H-imidazole (830 mg, 1.96 mmol) and Pd(Ph3P)2Cl2 (40 mg, 3 mol %) in THF (8 mL) and triethylamine (2 mL) was added 2-methyl-but-3-yn-2-ol (0.30 mL, 3.10 mmol) and the reaction vessel was evacuated and backfilled with nitrogen three times to remove atmospheric oxygen. Copper (I) iodide (40 mg, 10 mol %) was added and the reaction was stirred at room temperature for 5 h. After this time the solvent was removed under vacuum and the residue was filtered through a plug of silica gel (eluent=2:1 hexane:ethyl acetate) to give the crude alkynol product. This material was dissolved in isopropanol (10 mL) and treated with potassium hydroxide (150 mg, 2.67 mmol). The reaction mixture was heated to 70° C. for 4 h and then concentrated under vacuum and purified by silica-gel chromatography (eluent=4:1 hexane:ethyl acetate) to afford the product as a white solid (258 mg, 41% yield over two steps). 1H-NMR (CDCl3) δ 7.41 (s, 1H), 7.38-7.31 (m, 9H), 7.13-7.07 (m, 6H), 7.05 (d, J=1 Hz), 3.05 (s, 1H).

reactant | 4-iodo-1-trityl-1H-imidazole | 1.96 mmol, 830 mg | IC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17IN2
reactant | 2-methyl-but-3-yn-2-ol | 3.10 mmol, 0.30 mL | CC(C)(C#C)O | C5H8O
reactant | potassium hydroxide | 2.67 mmol, 150 mg | [OH-].[K+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
catalyst | Pd(Ph3P)2Cl2 | 40 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-Ethynyl-1-trityl-1H-imidazole | 258 mg, 41% yield | C(#C)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H18N2
